// Library name: SAR_11B_ZZS
// Cell name: LB_SAR_BTS
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
// pspice dspf
subckt LB_SAR_BTS CLK VBST VDD VIN VSS
    M0 (VBST net2 net33 net33) pch_ulvt_mac l=30n w=4u multi=1 nf=8 \
        sd=100n ad=2e-13 as=2.25e-13 pd=4.8u ps=5.9u nrd=0.057867 \
        nrs=0.057867 sa=295.835n sb=295.835n sa1=149.315n sa2=274.565n \
        sa3=507.343n sa4=281.096n sb1=149.315n sb2=274.565n sb3=507.343n \
        spa=100n spa1=100n spa2=100n spa3=100n sap=142.36n sapb=158.808n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (CLKN CLK VDD VDD) pch_ulvt_mac l=30n w=2u multi=1 nf=4 sd=100n \
        ad=1e-13 as=1.25e-13 pd=2.4u ps=3.5u nrd=0.112393 nrs=0.112393 \
        sa=179.203n sb=179.203n sa1=118.069n sa2=174.76n sa3=310.76n \
        sa4=171.966n sb1=118.069n sb2=174.76n sb3=310.76n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=120.952n sapb=140.537n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    C1 (net33 net1) cfmom_2t nr=80 lr=5u w=50n s=50n stm=2 spm=6 multi=1
    M24 (CLKP CLKN VDD VDD) pch_mac l=30n w=1u multi=1 nf=2 sd=100n \
        ad=5e-14 as=7.5e-14 pd=1.2u ps=2.3u nrd=0.212518 nrs=0.212518 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M25 (VDD VBST net33 net33) pch_mac l=30n w=1u multi=1 nf=2 sd=100n \
        ad=5e-14 as=7.5e-14 pd=1.2u ps=2.3u nrd=0.212518 nrs=0.212518 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M20 (net2 CLKP VDD VDD) pch_mac l=30n w=1u multi=1 nf=2 sd=100n \
        ad=5e-14 as=7.5e-14 pd=1.2u ps=2.3u nrd=0.212518 nrs=0.212518 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M23 (VDD CLK VBST VSS) nch_mac l=30n w=2u multi=1 nf=4 sd=100n \
        ad=1e-13 as=1.25e-13 pd=2.4u ps=3.5u nrd=0.248269 nrs=0.248269 \
        sa=179.203n sb=179.203n sa1=118.069n sa2=174.76n sa3=310.76n \
        sa4=171.966n sb1=118.069n sb2=174.76n sb3=310.76n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=120.952n sapb=140.537n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M21 (net2 CLKP net1 VSS) nch_mac l=30n w=1u multi=1 nf=2 sd=100n \
        ad=5e-14 as=7.5e-14 pd=1.2u ps=2.3u nrd=0.425847 nrs=0.425847 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M22 (net1 CLKN VSS VSS) nch_mac l=30n w=1u multi=1 nf=2 sd=100n \
        ad=5e-14 as=7.5e-14 pd=1.2u ps=2.3u nrd=0.425847 nrs=0.425847 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M3 (CLKP CLKN VSS VSS) nch_ulvt_mac l=30n w=4u multi=1 nf=8 sd=100n \
        ad=2e-13 as=2.25e-13 pd=4.8u ps=5.9u nrd=0.135370 nrs=0.135370 \
        sa=295.835n sb=295.835n sa1=149.315n sa2=274.565n sa3=507.343n \
        sa4=281.096n sb1=149.315n sb2=274.565n sb3=507.343n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=142.36n sapb=158.808n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M4 (VBST VDD CLKP VSS) nch_ulvt_mac l=30n w=4u multi=1 nf=8 sd=100n \
        ad=2e-13 as=2.25e-13 pd=4.8u ps=5.9u nrd=0.135370 nrs=0.135370 \
        sa=295.835n sb=295.835n sa1=149.315n sa2=274.565n sa3=507.343n \
        sa4=281.096n sb1=149.315n sb2=274.565n sb3=507.343n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=142.36n sapb=158.808n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M5 (net1 VBST VIN VSS) nch_ulvt_mac l=30n w=4u multi=1 nf=8 sd=100n \
        ad=2e-13 as=2.25e-13 pd=4.8u ps=5.9u nrd=0.135370 nrs=0.135370 \
        sa=295.835n sb=295.835n sa1=149.315n sa2=274.565n sa3=507.343n \
        sa4=281.096n sb1=149.315n sb2=274.565n sb3=507.343n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=142.36n sapb=158.808n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M2 (CLKN CLK VSS VSS) nch_ulvt_mac l=30n w=2u multi=1 nf=4 sd=100n \
        ad=1e-13 as=1.25e-13 pd=2.4u ps=3.5u nrd=0.248269 nrs=0.248269 \
        sa=179.203n sb=179.203n sa1=118.069n sa2=174.76n sa3=310.76n \
        sa4=171.966n sb1=118.069n sb2=174.76n sb3=310.76n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=120.952n sapb=140.537n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends LB_SAR_BTS
// End of subcircuit definition.

