// Library name: SAR_11B_ZZS
// Cell name: L4_BTS_X2
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
// pspice dspf
subckt L4_BTS_X2 CLKS VBTSN VBTSP VDD VIN VIP VSS
    I2 (CLKS VBTSN VDD VIN VSS) LB_SAR_BTS
    I0 (CLKS VBTSP VDD VIP VSS) LB_SAR_BTS
ends L4_BTS_X2
// End of subcircuit definition.

